US07662831B2
Following the procedure of Example 1, Step 4, 4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indol-2-amine (0.15 g, 0.54 mmol), t-butylacetyl chloride (0.063 mL, 0.54 mmol) and poly-(4-vinylpyridine) (500 mg) in dichloromethane (12 mL) provided 3,3-dimethyl-N-4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indol-2-ylbutanamide (67 mg). MS (ES) m/z 339.2; HPLC purity 100% at 210-370 nm, 11.1 min.; 100% at 250 nm, 11.1 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C22H30N2O+H+, 339.24309; found (ESI, [M+H]+), 339.2441.

reactant | 4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indol-2-amine | 0.54 mmol, 0.15 g | C1=C2C3=C(N4C2=C(C=C1N)CC4)CCCCCC3 | C16H20N2
reactant | t-butylacetyl chloride | 0.54 mmol, 0.063 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 3,3-dimethyl-N-4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indol-2-ylbutanamide | 67 mg | CC(CC(=O)NC=1C=C2C3=C(N4C2=C(C1)CC4)CCCCCC3)(C)C | C22H30N2O
